US06153783
29.4 Grams (0.300 mol; 31.1 mL) cyclohexanone, 14.4 grams (0.200 mol; 13.7 mL) of acrylic acid, 1.6 mL (9.6×10-3 mol) of 1-pyrrolidino-1-cyclohexene and 0.09 grams (5×10-3 mol) of water were added to a 250 mL round bottomed flask equipped with a reflux condenser, thermometer, and magnetic stirrer. The mixture was stirred and heated under reflux for four hours. The mixture was then cooled to room temperature resulting in a slushy mixture. Next, the reaction product was subjected to fractional distillation using a 1×20 cm Vigreux column and 0.3 mm Hg vacuum. The fraction taken at 145-151° C. yielded 20.4 g of 91 percent 3-(2-oxocyclohexyl)-propanoic acid (54 percent yield). This fraction was recrystallized in 40 mL CHCl3 /200 mL petroleum ether to give 15.4 grams of 3-(2-oxocyclohexyl)propanoic acid at 99 percent purity.

reactant | cyclohexanone | 0.300 mol, 31.1 mL | C1(CCCCC1)=O | C6H10O
reactant | acrylic acid | 0.200 mol, 13.7 mL, 14.4 grams | C(C=C)(=O)O | C3H4O2
catalyst | 1-pyrrolidino-1-cyclohexene | 9.6×10-3 mol, 1.6 mL | N1(CCCC1)C1=CCCCC1 | C10H17N
catalyst | water | 5×10-3 mol, 0.09 grams | O | H2O
product | 3-(2-oxocyclohexyl)-propanoic acid | 20.4 g, 54 percent yield | O=C1C(CCCC1)CCC(=O)O | C9H14O3
